US04847273
A solution of 3.42 g (0.01 mol) of α-acetyl-N-(2-methoxyethyl)-N-methyl-3-nitrostyrenesulfonamide and 1.87 g (0.01 mol) of 3-aminocrotonic acid 2-propoxyethyl ester in 15 ml of isopropanol is heated to reflux for 2 hours, thereupon treated with 1.0 g of Amberlyst® 15 as the catalyst and then heated to reflux for an additional 30 minutes. After concentration under reduced pressure the oily residue is dissolved in methylene chloride, the catalyst remaining behind is removed by filtration under suction, and the filtrate is washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated to dryness. The residual oil is chromatographed on 300 g of silica gel with methylene chloride/ethyl acetate (4:1) as the elution agent. The uniform fractions yield an oil which crystallizes upon trituration and leaving to stand under hexane. After recrystallization from ether, there are obtained 2.4 g (47%) of 1,4-dihydro-2,6-dimethyl-5-[(2-methoxyethyl)methylsulfamoyl]-4-(3-nitrophenyl)nicotinic acid 2-propoxyethyl ester, m.p. 67°-70°, as an almost colorless crystalline powder.

reactant | α-acetyl-N-(2-methoxyethyl)-N-methyl-3-nitrostyrenesulfonamide | 0.01 mol, 3.42 g | C(C)(=O)C(=CS(=O)(=O)N(C)CCOC)C1=CC(=CC=C1)[N+](=O)[O-] | C14H18N2O6S
reactant | 3-aminocrotonic acid 2-propoxyethyl ester | 0.01 mol, 1.87 g | C(CC)OCCOC(\C=C(\C)/N)=O | C9H17NO3
reactant | isopropanol | 15 ml | C(C)(C)O | C3H8O
product | 1,4-dihydro-2,6-dimethyl-5-[(2-methoxyethyl)methylsulfamoyl]-4-(3-nitrophenyl)nicotinic acid 2-propoxyethyl ester | 2.4 g, 47% | C(CC)OCCOC(C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])S(N(C)CCOC)(=O)=O)C)C)=O | C23H33N3O8S
